US04329347
5-Nitro-6-(4-phenylmercapto-butoxy)-carbostyril
Prepared analogous to Example 122 from 5-nitro-6-(4-bromo-butoxy)-carbostyril [m.p. 250° C., prepared by nitration of 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril] and thiophenol.

reactant | 5-nitro-6-(4-bromo-butoxy)-carbostyril | [N+](=O)([O-])C1=C2C=CC(NC2=CC=C1OCCCCBr)=O | C13H13BrN2O4
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 5-Nitro-6-(4-phenylmercapto-butoxy)-carbostyril | [N+](=O)([O-])C1=C2C=CC(NC2=CC=C1OCCCCSC1=CC=CC=C1)=O | C19H18N2O4S
